US09226500B2
2,2,2-Trifluoro-1-(3-(trifluoromethyl)phenyl)ethanol
1-(1-Bromo-2,2,2-trifluoroethyl)-3,5-dichlorobenzene (AI1). To a stirred solution of 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanol (4.0 g, 16.3 mmol) in CH2Cl2 (50 mL), were added NBS (2.9 g, 16.3 mmol) and triphenyl phosphite (5.06 g, 16.3 mmol), and the resultant reaction mixture was heated at reflux for 18 h. After the reaction was deemed complete by TLC, the reaction mixture was cooled to 25° C. and was concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 100% pentane) afforded the title compound as a liquid (2.0 g, 40%): 1H NMR (400 MHz, CDCl3) δ 7.41 (s, 3H), 5.00 (m, 1H); EIMS m/z 306 ([M]+).

reactant | 1-(1-Bromo-2,2,2-trifluoroethyl)-3,5-dichlorobenzene | BrC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C8H4BrCl2F3
reactant | 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanol | 16.3 mmol, 4.0 g | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)O | C8H5Cl2F3O
reactant | NBS | 16.3 mmol, 2.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | triphenyl phosphite | 16.3 mmol, 5.06 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(3-(trifluoromethyl)phenyl)ethanol | 2.0 g, 40% | FC(C(O)C1=CC(=CC=C1)C(F)(F)F)(F)F | C9H6F6O
